US04663319
Ethyl[N-(p-nitrobenzyl)-N-(methoxycarbonylethyl)carbamoyl]acetate (1.01 g) obtained in Example 32-(2), ethanol (10 ml) and 10% Pd/C (150 mg) are treated in the same manner as described in Example 33, whereby ethyl[N-(p-aminobenzyl)-N-(methoxycarbonylethyl)carbamoyl]acetate (810 mg, 87.5%) is obtained as pale yellow oil.

reactant | Ethyl[N-(p-nitrobenzyl)-N-(methoxycarbonylethyl)carbamoyl]acetate | 1.01 g | C(C)OC(CC(N(CCC(=O)OC)CC1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C16H20N2O7
catalyst | Pd/C | 150 mg | [Pd] | Pd
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | ethyl[N-(p-aminobenzyl)-N-(methoxycarbonylethyl)carbamoyl]acetate | 810 mg, 87.5% | C(C)OC(CC(N(CCC(=O)OC)CC1=CC=C(C=C1)N)=O)=O | C16H22N2O5
